US04436903
A solution of 1.05 g of sodium cyanoborohydride in 30 ml of tetrahydrofurane is added dropwise over 20 minutes to a solution of 5.86 g (10 mmols) of 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester in 50 ml of methylene chloride and 50 ml of glacial acetic acid, whereupon vigorous evolution of gas occurs. Then 20 ml of formic acid are added and the reaction mixture is stirred for 16 hours at room temperature. For working up, the reaction mixture is diluted with 300 ml of methylene chloride and the organic phase is washed four times with 100 ml of water, then dried over sodium sulfate. The solvent is distilled off in vacuo. The almost colourless crude product is chromatographed on silica gel with toluene/ethyl acetate (9:1), affording pure 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester.

reactant | sodium cyanoborohydride | 1.05 g | C(#N)[BH3-].[Na+]
reactant | 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester | 10 mmols, 5.86 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)N2CCOCC2 | C32H31N3O6S
reactant | formic acid | 20 ml | C(=O)O | CH2O2
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C28H24N2O5S
